US06984653B2
(i) Production of 2-[(E)-2-(4-fluorophenyl)ethenyl]-4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole
65% Sodium hydride (63.1 mg) was added to a solution of 4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenol (300 mg) in DMF (5 ml) at 0° C., and the mixture was stirred at room temperature for 30 min. 4-Chloromethyl-2-[(E) -2-(4-fluorophenyl)ethenyl]-1,3-oxazole (269 mg) was added to the mixture, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was successively washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=2:3 to ethyl acetate) to give the titled compound (374 mg) as a colorless amorphous form.

reactant | Sodium hydride | 63.1 mg | [H-].[Na+]
reactant | 4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenol | 300 mg | CSCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C16H22N2OS
reactant | 4-Chloromethyl-2-[(E) -2-(4-fluorophenyl)ethenyl]-1,3-oxazole | 269 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)F | C12H9ClFNO
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[(E)-2-(4-fluorophenyl)ethenyl]-4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole | 374 mg | FC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCSC | C28H30FN3O2S
